US08217032B2
1-{2-[4-(8-Fluoro-2-methoxy-5H-6-thia-chrysen-5-yl)-phenoxy]-ethyl}-piperidine
Dissolve [2-(4-fluoro-2-methylsulfanyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (1.2 g, 2.2 mmol) in dry THF (20 mL). Add lithium aluminum hydride (1M in THF, 2.3 mL, 2.3 mmol) dropwise. After 10 minutes slowly pour the black solution into saturated aqueous ammonium chloride and extract with methylene chloride twice. Dry the combined organic layers with sodium sulfate, filter and concentrate to yield a 2:1 mixture of rotational diastereomers. Dissolve the crude foam in dry THF (15 mL). Add diisopropylethylamine (2.5 mL, 14.4 mmol) and methanesulfonyl chloride (0.45 mL, 5.8 mmol) and heat to reflux under nitrogen. Add more methanesulfonyl chloride (0.45 mL, 5.8 mmol) after 2 hours to drive the reaction to completion. Pour the reaction into saturated aqueous sodium bicarbonate and extract twice with methylene chloride. Dry the combined organic layers with sodium sulfate, filter and concentrate. Purify the residue on silica gel (0% to 3% methanol in methylene chloride) to yield 440 mg (44%) of the title compound: mass spectrum (ion spray) m/z=500.3 (M+H).

reactant | [2-(4-fluoro-2-methylsulfanyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 2.2 mmol, 1.2 g | FC1=CC(=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)SC | C32H32FNO3S
reactant | lithium aluminum hydride | 2.3 mmol, 1M, 2.3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diisopropylethylamine | 14.4 mmol, 2.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 5.8 mmol, 0.45 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 5.8 mmol, 0.45 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-{2-[4-(8-Fluoro-2-methoxy-5H-6-thia-chrysen-5-yl)-phenoxy]-ethyl}-piperidine | 440 mg, 44% | FC=1C=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC1)OC)C1=CC=C(OCCN2CCCCC2)C=C1 | C31H30FNO2S
